US09353096B2
4-Chloro-3-fluoroaniline (2 g, 13.7 mmol) was dissolved in 60 mL of dichloromethane. Under ice bath, saturated sodium bicarbonate solution (60 mL) was added. The mixture was stirred at 0° C. and triphosgene (1.36 g, 4.58 mmol) was added. The mixture was stirred at 0° C. for 1 h and then extracted with dichloromethane and water. The organic layer was dried with sodium sulfate and filtered. The filtrate solution was concentrated and the residue was treated with 50 mL of hexanes. The hexane solution was concentrated to remove all solvents. The residue was taken up in 12 mL of hexanes and filtered. The solution was concentrated and dried to give 1-chloro-2-fluoro-4-isocyanatobenzene as an off white solid (1.69 g). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 6.82-6.90 (m, 1H) 6.93 (dd, J=9.22, 2.65 Hz, 1H) 7.31-7.41 (m, 1H).

reactant | 4-Chloro-3-fluoroaniline | 13.7 mmol, 2 g | ClC1=C(C=C(N)C=C1)F | C6H5ClFN
reactant | sodium bicarbonate | 60 mL | C([O-])(O)=O.[Na+]
reactant | triphosgene | 4.58 mmol, 1.36 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 1-chloro-2-fluoro-4-isocyanatobenzene | ClC1=C(C=C(C=C1)N=C=O)F | C7H3ClFNO
